US09422271B2
A mixture of 2-bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine (300 mg, 1.071 mmol, 1.0 eq), N-tert-butyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-sulfonamide (443.7 mg, 1.285 mmol, 1.2 eq), Pd(dppf)Cl2 (87.5 mg, 0.1071 mmol, 0.1 eq), Na2CO3 (454.1 mg, 4.284 mmol, 4 eq) in 1,4-dioxane (20 ml) and water (4 ml) was stirred at 100° C. under a nitrogen atmosphere for 15 h. The reaction mixture was allowed to cool to room temperature and concentrated to give a residue, which was purified by silica gel chromatography (CH2Cl2/methanol 500:1 to 50:1 as eluent) to afford N-tert-butyl-5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-sulfonamide (300 mg, 66.9%) as a solid. LC-MS (m/z)=419.1 [M+H]+.

reactant | 2-bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 1.071 mmol, 300 mg, 1.0 eq | BrC1=NC=CC(=N1)NC1=NNC(=C1)C1CC1 | C10H10BrN5
reactant | N-tert-butyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-sulfonamide | 1.285 mmol, 443.7 mg, 1.2 eq | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)B1OC(C(O1)(C)C)(C)C | C14H24BNO4S2
reactant | Na2CO3 | 4.284 mmol, 454.1 mg, 4 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 4 ml | O | H2O
catalyst | Pd(dppf)Cl2 | 0.1071 mmol, 87.5 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-tert-butyl-5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-sulfonamide | 300 mg, 66.9% | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC=CC(=N1)NC1=NNC(=C1)C1CC1 | C18H22N6O2S2
